US09359362B2
(rac)-7-(4-Cyanophenyl)-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-5-methyl-4,7-dihydro[1,2,4]-triazolo[1,5-a]pyrimidine-6-carbonitrile
Under argon, (rac)-2-amino-7-(4-cyanophenyl)-5-methyl-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile (15 g, 54.1 mmol) together with phthalic anhydride (11.22 g, 75.7 mmol, 1.4 eq.) was suspended in a mixture of toluene (500 ml) and pyridine (600 ml), triethylamine (1.51 ml, 10.8 mmol, 0.2 eq.) was added and the mixture was heated under reflux overnight. More pyridine (200 ml), phthalic anhydride (8 g, 54.0 mmol, 1.0 eq.) and triethylamine (1.51 ml, 10.8 mmol, 0.2 eq.) were then added, and the mixture was heated under reflux for another 12 h. The reaction mixture was then concentrated under reduced pressure and the residue was dried under high vacuum (12 h). Three times, the crude product was suspended in ethanol (100 ml), stirred for 1 h, filtered off, washed with pentane and dried under high vacuum. The product obtained was a light-beige solid (20 g), which was recrystallised from DMF/methanol. To this end, the solid was initially dissolved in hot DMF (250 ml, 150° C.) and the cold DMF solution was then slowly, with stirring, poured into methanol (1.3 liters), whereupon the product precipitated out. The precipitate was filtered off and dried under high vacuum. Reprecipitation from DMF/methanol gave 15.91 g (99% pure, 71.5% of theory) of the title compound.

reactant | (rac)-2-amino-7-(4-cyanophenyl)-5-methyl-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile | 54.1 mmol, 15 g | NC1=NN2C(NC(=C(C2C2=CC=C(C=C2)C#N)C#N)C)=N1 | C14H11N7
reactant | phthalic anhydride | 75.7 mmol, 11.22 g, 1.4 eq. | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | triethylamine | 10.8 mmol, 1.51 ml, 0.2 eq. | C(C)N(CC)CC | C6H15N
reactant | phthalic anhydride | 54.0 mmol, 8 g, 1.0 eq. | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | triethylamine | 10.8 mmol, 1.51 ml, 0.2 eq. | C(C)N(CC)CC | C6H15N
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | 600 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | (rac)-7-(4-Cyanophenyl)-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-5-methyl-4,7-dihydro[1,2,4]-triazolo[1,5-a]pyrimidine-6-carbonitrile | C(#N)C1=CC=C(C=C1)C1C(=C(NC=2N1N=C(N2)N2C(C1=CC=CC=C1C2=O)=O)C)C#N | C22H13N7O2
